US04593094
To a solution of metallic sodium (0.46 g) in methanol (20 ml), 2-(4-chloro-2-fluoro-5-methoxyphenyl)urazol (2.6 g) was added, and the resultant mixture was concentrated under reduced pressure. The residue was dissolved in dimethylformamide (20 ml), 1,5-dibromopentane (2.3 g) was added thereto, and the resulting mixture was stirred at 100° to 120° C. for 4 hours. After being allowed to cool, water was added to the mixture, which was then extracted with ethyl acetate. The extract was washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography and recrystallized from methanol to give 0.42 g of 2-(4-chloro-2-fluoro-5-methoxyphenyl)-1H,5H-[1,2,4]triazolo[1,2-a]-[1.2]diazepine-1,3(2H)-dione (Compound No. 3). M.P., 121.5°-123° C. IRνmax (cm -1): 1750, 1680. NMR δ (ppm): 1.8 (6H, m), 3.9 (3H, s).

reactant | sodium | 0.46 g | [Na] | Na
reactant | 2-(4-chloro-2-fluoro-5-methoxyphenyl)urazol | 2.6 g | ClC1=CC(=C(C=C1OC)N1NC(NC1=O)=O)F | C9H7ClFN3O3
solvent | methanol | 20 ml | CO | CH4O
product | 2-(4-chloro-2-fluoro-5-methoxyphenyl)-1H,5H-[1,2,4]triazolo[1,2-a]-[1.2]diazepine-1,3(2H)-dione | 0.42 g | ClC1=CC(=C(C=C1OC)N1C(N2N(C=CC=CC2)C1=O)=O)F | C14H11ClFN3O3
